US04629739
N-Allyl-N',N'-Diethylethanediamine
To a solution of 49.7 g (0.87 moles) of allylamine in 500 ml of ethanol, add in several portions 50 g (0.29 moles) of 2-chloro-N,N-diethylethanamine hydrochloride, then add 80.2 g (0.58 moles) of potassium carbonate. Stir the reaction at room temperature for 1 hr, then heat to reflux. Follow the progress of the reaction by thin-layer chromatography on silica gel (acetonitrile:ammonium hydroxide, 9:1). At the completion of the reaction dilute the mixture with 500 ml of 20% sodium hydroxide solution. Extract the aqueous mixture with 4×200 ml of diethyl ether. Dry the combined ether extracts over anhydrous sodium sulfate. Remove the drying agent by filtration and evaporate the solvent in vacuo. Distill the residue at reduced pressure and collect the fraction distilling at 81° C. (20 mm Hg) to obtain the title compound.

reactant | allylamine | 0.87 moles, 49.7 g | C(C=C)N | C3H7N
reactant | 2-chloro-N,N-diethylethanamine hydrochloride | 0.29 moles, 50 g | Cl.ClCCN(CC)CC
reactant | potassium carbonate | 0.58 moles, 80.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 500 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 500 ml | [OH-].[Na+]
product | N-Allyl-N',N'-Diethylethanediamine | C(C=C)NC(C)N(CC)CC | C9H20N2
